US07514566B2
To a 250 mL round-bottomed flask was added 4-bromo-2-fluoro-1-(trifluoromethyl)benzene (12 mL, 50 mmol) and DMF (4.0 mL, 50 mmol). The solution was stirred at 0° C. and treated with sodium methoxide (4 g, 75 mmol). The reaction mixture was stirred at room temperature for 30 minutes and 60° C. for 2 hours. The resulting milky suspension was quenched with ice at 0° C. and the separated aqueous layer was extracted with EtOAc (3×50 mL). The combined organic layers were washed with saturated sodium chloride (1×25 mL), dried over Na2SO4, and concentrated to give the crude residue which was purified with flash column chromatography ((5%→20% EtOAc in hexane) to provide 4-bromo-2-methoxy-1-(trifluoromethyl)benzene (5.80 g, 46% yield) as a light yellow oil. m/z (%): 256.1.2 (100%, M++H).

reactant | 4-bromo-2-fluoro-1-(trifluoromethyl)benzene | 50 mmol, 12 mL | BrC1=CC(=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | DMF | 50 mmol, 4.0 mL | CN(C)C=O | C3H7NO
reactant | sodium methoxide | 75 mmol, 4 g | C[O-].[Na+]
product | 4-bromo-2-methoxy-1-(trifluoromethyl)benzene | 5.80 g, 46% yield | BrC1=CC(=C(C=C1)C(F)(F)F)OC | C8H6BrF3O
